US09120777B2
D) Methyl 2-cyclopropyl-2′,4′-difluoro-5-hydroxybiphenyl-4-carboxylate
A mixture of methyl 5-(benzyloxy)-2-cyclopropyl-2′,4′-difluorobiphenyl-4-carboxylate (20.3 g), 10% palladium carbon (containing 55% water, 10.0 g), and THF (100 mL) was stirred at room temperature for 1 hour in a hydrogen atmosphere of balloon pressure. The catalyst was filtered off, and the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (15.0 g).

reactant | methyl 5-(benzyloxy)-2-cyclopropyl-2′,4′-difluorobiphenyl-4-carboxylate | 20.3 g | C(C1=CC=CC=C1)OC=1C(=CC(=C(C1)C1=C(C=C(C=C1)F)F)C1CC1)C(=O)OC | C24H20F2O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 10.0 g | [C].[Pd]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Methyl 2-cyclopropyl-2′,4′-difluoro-5-hydroxybiphenyl-4-carboxylate | 15.0 g | C1(CC1)C1=C(C=C(C(=C1)C(=O)OC)O)C1=C(C=C(C=C1)F)F | C17H14F2O3
